US09126998B2
rac-tert-Butyl [2-(4-chlorophenyl)-2-hydroxyethyl]carbamate
First, 2.43 g of triethylamine (24.03 mmol) and then 2.35 g of di-tert-butyl dicarbonate (10.76 mmol) were added to 2.0 g of rac-2-amino-1-(4-chlorophenyl)ethanol hydrochloride (9.61 mmol) in 14 ml of dichloromethane. The reaction mixture was stirred at RT for 2 h. The mixture was diluted with dichloromethane, washed with saturated aqueous sodium bicarbonate solution and with saturated aqueous sodium chloride solution, dried over sodium sulphate, filtered, concentrated under reduced pressure and dried under high vacuum. This gave 2.72 g of the title compound (104% of theory).

reactant | triethylamine | 24.03 mmol, 2.43 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 10.76 mmol, 2.35 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | rac-2-amino-1-(4-chlorophenyl)ethanol hydrochloride | 9.61 mmol, 2.0 g | Cl.NCC(O)C1=CC=C(C=C1)Cl
solvent | dichloromethane | 14 ml | ClCCl | CH2Cl2
product | rac-tert-Butyl [2-(4-chlorophenyl)-2-hydroxyethyl]carbamate | ClC1=CC=C(C=C1)C(CNC(OC(C)(C)C)=O)O | C13H18ClNO3
